* C:\Users\Adrian\Desktop\LTSpice\equalizer_v2.asc
* Generated by LTspice 24.1.5 for Windows.
X§U1 0 N003 VCC VDD N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 LP_RAW N002 1
C1 LP_RAW 0 180p
R2 HP_RAW 0 442k
C2 HP_RAW N006 180p
V1 VCC 0 10
V3 VDD 0 -10
V2 IN 0 AC 1
R3 N003 LP 1k
R4 N003 HP 1k
R5 N004 N003 1k
X§U4 IN N002 VCC VDD N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U5 IN N006 VCC VDD N006 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 BP_RAW 0 884k
C3 BP_RAW N011 180p
X§U7 IN N012 VCC VDD N012 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 N013 N012 884k
C4 N013 0 180p
R10 BP_2 N003 1k
X§U8 BP_RAW N009 VCC VDD BP_1 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 0 N009 1k
X§U9 N013 N011 VCC VDD N011 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R§POT3 BP_1 N009 1k
X§U2 HP_RAW N005 VCC VDD HP level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R11 HP N005 5k
R12 0 N005 1k
X§U3 LP_RAW N001 VCC VDD LP level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 LP N001 5k
R14 0 N001 1k
X§U6 BP_1 N008 VCC VDD BP_2 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R7 0 N008 1k
R§POT1 BP_2 N008 5k
R15 N004 OUT 9k
R16 OUT 0 1k
X§U10 1 N014 VCC VDD N014 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C5 2 0 180p
C6 1 0 180p
V5 in_test 0 wavefile=blues.wav
X§U12 2 out2 VCC VDD out2 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R24 2 N014 1768k
R18 1 in_test 1768k
X§U18 NC_01 N010 NC_02 pot Rtot=1768k*1000 wiper=0.5
X§U11 1ref N016 VCC VDD N016 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C7 2ref 0 180p
C8 1ref 0 180p
V4 N015 0 AC 1
R19 2ref N016 1768k
R20 1ref N015 1768k
B1 N007 0 V = 0.01*(1 + time)
X§U13 NC_03 NC_04 NC_05 pot_nlog Rtot=1768meg wiper={wiper} Rtap=1k tap=0.5
X§U14 NC_06 in_test 2 pot_plog Rtot=1768meg wiper={wiper} Rtap=17.68Meg tap=0.1
* .ac oct 10 1 100k
.MEAS AC BP_MAX max mag(V(BP_1))
.MEAS AC freq3db WHEN V(BP_1) = BP_MAX*0.707
.meas ac LP_CUTOFF when db(V(LP)) = -3.0173686494165
.meas ac LP_MAX MAX mag(V(LP))
* fc = 500Hz
* fc = 2000Hz
* fo = 1 kHz
.MEAS AC BP_RAW_MAX max mag(V(BP_RAW))
.MEAS AC BP_MAX_2 max mag(V(BP_2))
.wave out2.wav 16 44100 V(out2)
* .tran 10s
.lib opamp.sub
* lp -> hp\nseparator opamp
* fixed gainstep
* optional divider\nfor testing purposes\n(audio I/O testing ltspice directives)
* measure peak gain
* measure gain at fc
* audio I/O testing
* .ac dec 10 1 100k
.include sub/pot.sub
* R = min(200k*(floor(time)+1), 1768k)
* .step param r 1 1768k 500k
* .step param wiper 0 0.4 0.05
* R = min(1768k*5*(floor(time)+1), 1768k*50)
* wavefile=blues.wav
* wavefile=blues.wav
* R = {1768k + 1591.2k*time}
* R = 1768k*1*(floor({time})+1u)
* [Colors]\nGrid=6579300\nInActiveAxis=9868950\nWaveColor0=0\nWaveColor1=11513775\nWaveColor2=65280\nWaveColor3=16711680\nWaveColor4=255\nWaveColor5=11513600\nWaveColor6=16711935\nWaveColor7=8421504\nWaveColor8=32768\nWaveColor9=11468800\nWaveColor10=32943\nWaveColor11=8388736\nWaveColor12=128\nWaveColor13=44975\nSchematicColor0=16711680\nSchematicColor1=16711680\nSchematicColor2=8323072\nSchematicColor3=16711680\nSchematicColor4=12648447\nSchematicColor5=0\nSchematicColor6=0\nSchematicColor7=0\nSchematicColor8=13107200\nSchematicColor9=16711680\nSchematicColor10=65535\nSchematicColor11=0\nSchematicColor12=12632256\nSchematicColor13=13107200\nNetlistNormalTextColor=0\nNetlistCommentTextColor=32768\nNetlistDotcmdTextColor=16711680\nNetlistBackgroundColor=16777215\nContinuationLineColor=255
.param wiper=1
.wave out_wiper.wav 16 44100 V(out2)
.tran 5
* 0 = most dampening, 1 = least\n(small difference around 0.4 for log pot)
.lib potentiometer_standard.lib
.lib UniversalOpAmp1.lib
.backanno
.end
